US09260455B2
Step 3. Synthesis of (4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylpropyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine (7)
1,8-Diazabicyclo[5.4.0]undec-7-ene (3.0 μL, 20 μmol) was added to a solution of N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylpropyl)-4,4a, 5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C29) (10.5 mg, 23.6 μmol) in methanol (0.4 mL) and the reaction mixture was heated at 60° C. for 18 hours in a sealed vial. Solvent was removed under a stream of nitrogen, and the residue was partitioned between water (3 mL) and ethyl acetate (5 mL). The aqueous layer was extracted with ethyl acetate (5 mL), and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Purification was carried out via reversed phase high-performance liquid chromatography (Column: Waters XBridge C18, 5 μm; Mobile phase A: 0.03% ammonium hydroxide in water (v/v); Mobile phase B: 0.03% ammonium hydroxide in acetonitrile (v/v); Gradient: 30% to 100% B). Yield: 4.2 mg, 12 μmol, 51%. LCMS m/z 341.1 [M+H+]. 1H NMR (600 MHz, DMSO-d6) δ 7.31-7.36 (m, 1H), 7.15-7.20 (m, 1H), 7.08 (ddd, J=9, 8, 2 Hz, 1H), 3.86 (dd, J=10.5, 1.8 Hz, 1H), 3.54 (d, J=10.5 Hz, 1H), 3.50-3.56 (m, 1H), 2.62-2.73 (m, 3H), 1.71-1.79 (m, 1H), 1.52-1.60 (m, 1H), 1.45-1.50 (m, 1H), 1.40 (ddd, J=14, 8, 6 Hz, 1H), 1.21 (ddd, J=14, 8, 4.5 Hz, 1H), 0.89 (d, J=6.1 Hz, 3H), 0.88 (d, J=6.6 Hz, 3H).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 20 μmol, 3.0 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-[(4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylpropyl)-4,4a, 5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 23.6 μmol, 10.5 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CC(C)C)NC(C2=CC=CC=C2)=O | C24H26F2N2O2S
solvent | methanol | 0.4 mL | CO | CH4O
product | (4aR,6S,8aS)-8a-(2,4-difluorophenyl)-6-(2-methylpropyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-amine | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CC(C)C)N | C17H22F2N2OS
